US05116971
1.2. 2-Acetamido-5-methyl-2'-chlorobenzophenone
The Grignard reagent prepared from 312.5 g (1.63 mol) of 2-bromochlorobenzene and 39.6 g (1.63 mol) of magnesium in 1.2 liters of anhydrous ether is added dropwise, in 2.5 hours, to a stirred solution of 270 g (1.54 mol) of 2,6-dimethyl-4H-3,1-benzoxazin-4-one in 4 liters of absolute ether at room temperature. The mixture is then allowed to react for a further 2 hours at the same temperature. While cooling in ice, the mixture is cautiously hydrolysed with 2N hydrochloric acid and then the aqueous phase is separated off. The organic phase is washed first with dilute sodium hydroxide solution and then with water. The organic phase is dried and concentrated. The resulting residue is induced to crystallise with isopropyl ether.

reactant | 2-bromochlorobenzene | 1.63 mol, 312.5 g | BrC1=C(C=CC=C1)Cl | C6H4BrCl
reactant | magnesium | 1.63 mol, 39.6 g | [Mg] | Mg
reactant | 2,6-dimethyl-4H-3,1-benzoxazin-4-one | 1.54 mol, 270 g | CC1=NC2=C(C(O1)=O)C=C(C=C2)C | C10H9NO2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ether | 1.2 liters | CCOCC | C4H10O
solvent | ether | 4 liters | CCOCC | C4H10O
product | 2-Acetamido-5-methyl-2'-chlorobenzophenone | C(C)(=O)NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)C | C16H14ClNO2
